US08283353B2
4′-({7-butyl-4-[trans-4-(2-hydroxypropoxy)cyclohexyl]-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of 2-[(trans-4-{7-butyl-6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxopyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide (0.30 g) in tetrahydrofuran (3 mL) was added dropwise methylmagnesium bromide (1 M tetrahydrofuran solution, 0.74 mL) at 0° C., and the mixture was stirred for 1 hr. Ethyl acetate and then saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was dissolved in ethanol (6 mL), and sodium borohydride (0.020 g) was added at 0° C. After stirring at 0° C. for 30 min, ethyl acetate and then saturated aqueous ammonium chloride solution were added. The mixture was extracted with ethyl acetate, and the organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.27 g, 98%).

reactant | 2-[(trans-4-{7-butyl-6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxopyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]-N-methoxy-N-methylacetamide | 0.30 g | C(CCC)C1=C(C(N(C=2N1N=CC2)[C@@H]2CC[C@H](CC2)OCC(=O)N(C)OC)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C#N | C34H39N5O4
reactant | methylmagnesium bromide | 1 M, 0.74 mL | C[Mg]Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4′-({7-butyl-4-[trans-4-(2-hydroxypropoxy)cyclohexyl]-5-oxo-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.27 g, 98% | C(CCC)C1=C(C(N(C=2N1N=CC2)[C@@H]2CC[C@H](CC2)OCC(C)O)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C33H38N4O3
